Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Losartan
 
Attending: ___
 
Chief Complaint:
Right foot surgical site infection
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female transferred from an OSH for Right 
foot infection. Patient underwent surgery with Dr. ___ on 
___, right hllux arthroplasty with K wire fixation, ___ 
toe flexor tenotomy, Left ___ PIPJ arthroplasty and left hallux 
nail avulsion.  Patient was last seen in clinic on ___ 
where sutures and K-wire were removed.  PAtient presented to an 
OSH for a right foot infection on ___. WBC count at this 
time was 10.8, CRP was 12.6. She was started on broad spectrum 
abx,Vancomycin and Ceftriaxone,  had 2 blood cultures positive 
for Coag + staph. Since being in the hospital, her WBC decreased 
to 4.6. Her Creatinine is also elevated on admission to OSH, 2.7 
and has trended down to 2.06.  Due to concern at the OSH to 
perform a right hallux amputation, she was transferred to ___ 
for further evaluation. States glucose has been under control, 
last A1c was 8.8% in ___.  Denies current fevers, chills, 
nausea, vomiting, shortness of breath, chest pain
 
Past Medical History:
HLD, heart murmur, HTN, CVA ___ x3 with residual L arm 
paralysis, L left weakness, DM HgA1c 8.9% w/+nephropathy, 
neuropathy, retinopathy, CRF (cr 1.7-1.9, preop 2.5), s/p left 
hallux fusion, buniectomy, multi foot surgeries, tubal ligation, 
h/o Charcot joint
 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical Exam on Admission
Gen: A&OX3, NAD 
Vitals: AVSS
Resp: CTAB
CV: RRR, No murmors rubs or gallops
Abd: Soft, NT, ND
Focused Lower extremity exam: DP and ___ pulses palpable. CRT < 3 
seconds to all digits of lower extremity. No significant edema 
noted to b/l lower extremity. At area of prior K wires at distal 
tip of toe with callus formation overlying with pinpoint amount 
of purulence. Neither tract probes deeply. + S-incision dorsal 
IPJ with healing noted proximally. + dehiscence of wound at 
transverse incision over IPJ with + probe deeply. + erythema and 
edema localized to hallux. No streaking. No fluctuance. No 
active purulence. Healed incision on left dorsal ___ toe, and 
right plantar ___ toe IPJ. Active and passive ROM WNL without 
pain

Physical Exam on Discharge:
Gen: A&OX3, NAD 
Vitals: AVSS
Resp: CTAB
CV: RRR, No murmors rubs or gallops
Abd: Soft, NT, ND
RLE: C/D/I dressing R foot. Cap refill <3 seconds to all digits. 
Patient able to flex and extend all digits ankle.
 
Pertinent Results:
___ 01:47AM BLOOD WBC-7.1 RBC-2.50* Hgb-7.4* Hct-23.0* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-12.3 RDWSD-41.5 Plt ___
___ 11:30PM BLOOD WBC-6.5 RBC-2.58* Hgb-7.4*# Hct-24.1* 
MCV-93 MCH-28.7 MCHC-30.7* RDW-12.3 RDWSD-42.1 Plt ___
___ 01:47AM BLOOD Glucose-215* UreaN-32* Creat-1.7* Na-136 
K-4.1 Cl-103 HCO3-21* AnGap-16
___ 11:30PM BLOOD Glucose-180* UreaN-35* Creat-1.7* Na-140 
K-3.7 Cl-108 HCO3-20* AnGap-16
___ 01:47AM BLOOD Calcium-9.1 Phos-2.9 Mg-1.8
___ 11:30PM BLOOD Calcium-9.1 Phos-2.5* Mg-1.9
___ 11:30PM BLOOD HCG-13
___ 08:05AM BLOOD HCG-15
___ 08:05AM BLOOD CRP-115.3*
___ 08:05AM BLOOD ALT-25 AST-37 CK(CPK)-62 AlkPhos-115* 
TotBili-0.1
___ 08:05AM BLOOD Albumin-3.4* Calcium-9.2 Phos-2.9 Mg-1.8

R foot x-ray ___:
Increased callus/periosteal reaction about the first proximal 
phalanx at the site of arthroplasty which may be secondary to 
infection or postsurgical change. 

Chest x-ray ___:
Interval placement of right subclavian PICC line which has its 
tip in the 
proximal right atrium.  Pull-back by 3 cm would place the tip in 
the distal SVC.  Patchy opacity at the right lung base most 
likely reflects atelectasis, although an early pneumonia cannot 
be excluded.  Clinical correlation is recommended.  No pleural 
effusions or pulmonary edema.  No pneumothorax. Cardiac and 
mediastinal contours are stable. 

PELVIC US ___:
1. Normal uterus and ovaries.  No pelvic masses are seen. 
2. Trace pelvic free fluid. 

ECHO ___:
The left atrial volume index is normal. Normal left ventricular 
wall thickness, cavity size, and global systolic function (3D 
LVEF = 75%). Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. No masses or vegetations are 
seen on the aortic valve. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. There is a very small pericardial 
effusion. 

IMPRESSION: No vegetations or clinically-significant regurgitant 
valvular disease seen. Normal global and regional biventricular 
systolic function. Very small pericardial effusion.  
 
Brief Hospital Course:
The patient was admitted to the podiatric surgery service, 
transferred from an outside hostpial on ___ for a 
surgical site infection, right hallux.

Throughout her hospital stay, the patient remained afebrile with 
stable vital signs; pain was well controlled with oral pain 
medication on a PRN basis.  The patient remained stable from 
both a cardiovascular and pulmonary standpoint. He was placed on 
vancomycin, ciprofloxacin, and flagyl while hospitalized. On 
hospital day 2, she was seen by the infectious disease team who 
recommended a 6 week course of ancef for cultures growing MSSA. 
Patients intake and output were closely monitored and noted to 
be adequate. The patient received subcutaneous lovenox 
throughout admission; early and frequent ambulation were 
strongly encouraged.

At the outside hospital, the patient received 2 positive tests 
with +HCG in her urine.  The test was repeated here, and while 
it was negative, the serum HCG remained elevated. The Gynecology 
was consulted who recommended obtaining a pelvic ultrasound 
which was negative for a pelvic mass. They recommended she 
follow up with gynecology for a further outpatient workup and 
would contact her in regards to her blood work as well as an 
appointment time.

The patient was subsequently discharged home on hospital day 3. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 162 mg PO DAILY 
2. Belsomra (suvorexant) 10 mg oral QHS insomnia 
3. Calcitriol 0.25 mcg PO 4X/WEEK (___) 
4. coenzyme Q10 10 mg oral DAILY 
5. Carvedilol 25 mg PO DAILY 
6. Furosemide 40 mg PO BID 
7. Gabapentin 200 mg PO BID 
8. Lantus (insulin glargine) 12 units subcutaneous QAM 
9. Lisinopril 40 mg PO DAILY 
10. Lorazepam 0.5 mg PO BID:PRN anxiety 
11. NIFEdipine CR 90 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Atorvastatin 10 mg PO DAILY 
14. HumaLOG (insulin lispro) 100 unit/mL subcutaneous TID 
15. BuPROPion 150 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 162 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Calcitriol 0.25 mcg PO EVERY OTHER DAY 
4. Carvedilol 25 mg PO BID 
5. Furosemide 40 mg PO BID 
6. Gabapentin 200 mg PO BID 
7. Glargine 12 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
8. Lisinopril 40 mg PO QPM 
9. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
10. Multivitamins ___ TAB PO BID 
11. NIFEdipine CR 90 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
pain 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
q6 hours Disp #*25 Tablet Refills:*0
14. CefazoLIN 1 g IV Q12H 
RX *cefazolin in dextrose (iso-os) 1 gram/50 mL 1 gram IV twice 
a day Disp #*80 Intravenous Bag Refills:*0
15. Belsomra (suvorexant) 10 mg oral QHS insomnia 
16. BuPROPion 150 mg PO DAILY 
17. coenzyme Q10 10 mg oral DAILY 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R foot infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your right foot surgery. 
You were given IV antibiotics while here. You were also found to 
have elevation of a hormone in your blood known as HCG, or human 
chorionic gonadotropin hormone. We discussed this with the 
gynecologists who recommended an ultrasound of your pelvis which 
was normal. The gynecologists evaluated you and recommended that 
you follow up with them as an outpatient. You are being 
discharged home with the following instructions: 

ACTIVITY:
There are restrictions on activity. Please remain weight bearing 
as tolerated to your right foot in a surgical shoe until your 
follow up appointment. You should keep this site elevated when 
ever possible (above the level of the heart!) 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. You should not get your foot wet as this can result in 
worsening infection. You should change your dressing every other 
day by applying gauze with betadine to your wound with a kerlex, 
or gauze wrap to your foot.

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___